US05464796
c) 4-Methylaminomethyl-1,3,3a,4,7,7a-hexahydroisoindole
4-tert.-Butyloxycarbonylaminomethyl-1,3-dioxo-1,3,3a,4,7,7a-hexahydroisoindole is reduced with lithium aluminium hydride by a method analogous to that described in Example A, method IIb: yellow oil.

reactant | 4-tert.-Butyloxycarbonylaminomethyl-1,3-dioxo-1,3,3a,4,7,7a-hexahydroisoindole | C(C)(C)(C)OC(=O)NCC1C2C(NC(C2CC=C1)=O)=O | C14H20N2O4
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-Methylaminomethyl-1,3,3a,4,7,7a-hexahydroisoindole | CNCC1C2CNCC2CC=C1 | C10H18N2
